US05210208
To a solution of 3-formylpyrrole-1-acetic acid in methylene chloride is added 1.1 molar equivalent of 1,1'-carbonyldiimidazole and several mg of 4-dimethylaminopyridine. The resulting mixture is stirred at room temperature for 18 hours and the reaction mixture is diluted with ethyl acetate. Water is added and the layers are separated. The organic layer is washed with brine and water, dried over MgSO4 and concentrated in vacuo. The residue obtained is purified by a silica gel flash column to give N-methyl-N-phenethyl-2-[3-formylpyrrol-1-yl]-acetamide which is used directly in the next step.

reactant | 3-formylpyrrole-1-acetic acid | C(=O)C1=CN(C=C1)CC(=O)O | C7H7NO3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-methyl-N-phenethyl-2-[3-formylpyrrol-1-yl]-acetamide | CN(C(CN1C=C(C=C1)C=O)=O)CCC1=CC=CC=C1 | C16H18N2O2
